US05135932
6-[2-[4-[3-(2-Cyano-phenoxy)-2-hydroxypropylamino]butylamino]benzoxazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-(2-cyanophenoxy)-2,3-epoxypropane and 6-[2-(4-aminobutylamino)benzoxazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone.

reactant | 1-(2-cyanophenoxy)-2,3-epoxypropane | C(#N)C1=C(OCC2CO2)C=CC=C1 | C10H9NO2
reactant | 6-[2-(4-aminobutylamino)benzoxazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | NCCCCNC=1OC2=C(N1)C=C(C=C2)C=2C(CC(NN2)=O)C | C16H21N5O2
product | 6-[2-[4-[3-(2-Cyano-phenoxy)-2-hydroxypropylamino]butylamino]benzoxazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | C(#N)C1=C(OCC(CNCCCCNC=2OC3=C(N2)C=C(C=C3)C=3C(CC(NN3)=O)C)O)C=CC=C1 | C26H30N6O4
